US07838674B2
3.a: 6,8-Dioxo-5-aza-spiro[3.5]nonane-5-carboxylic acid tert-butyl ester
(1-tert-Butoxycarbonylamino-cyclobutyl)-acetic acid (6 g; 26 mmol) (Eur.J.Med.Chem. 34 (1999) 363), EDC (7.5 g; 39 mmol) DMAP (4.8 g; 39 mmol) and Meldrum's acid (3.77 g; 26 mmol) in CH2Cl2 (120 ml) are stirred at room temperature over night and poured on 2N HCl/water (40 ml/400 ml). The aqueous phase is extracted with CH2Cl2 twice, the organic phases are combined and dried over Na2SO4 and evaporated to dryness. The orange-colored residue is taken up in ethyl acetate (200 ml) and refluxed for 2.5 hours, diluted with hexanes (600 ml) and purified via chromatography (SiO2; Hexanes/acetone 92:8) yielding the title compound as yellowish crystals in a modest purity, which is sufficient to perform the next steps.

reactant | (1-tert-Butoxycarbonylamino-cyclobutyl)-acetic acid | 26 mmol, 6 g | C(C)(C)(C)OC(=O)NC1(CCC1)CC(=O)O | C11H19NO4
reactant | EDC | 39 mmol, 7.5 g
reactant | Meldrum's acid | 26 mmol, 3.77 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | HCl water | 2N, 40 ml | Cl.O
catalyst | DMAP | 39 mmol, 4.8 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | 6,8-Dioxo-5-aza-spiro[3.5]nonane-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2(CCC2)CC(CC1=O)=O | C13H19NO4
